US08669234B2
To the solution of 2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester (100 mg, 0.42 mmol) and triethylamine (50 μl, 0.36 mmol) in acetonitrile (2 ml) was added a solution of pyrrolidine-1,2-dicarboxylic acid 2-{2-[9-(2-bromo-acetyl)-5,7-dihydro-dibenzo[c,e]oxepin-3-yl]-2-oxo-ethyl}ester 1-tert-butyl ester (136 mg, 0.24 mmol) in DMF (4 ml). The mixture was stirred for 10 hours, and the solvent was evaporated. The mixture was diluted with EtOAc, and washed with water and brine, and was dried with sodium sulfate. Concentration gave 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 3-(2-{9-[2-(1-tert-butoxycarbonyl-pyrrolidine-2-carbonyloxy)-acetyl]-5,7-dihydro-dibenzo[c,e]oxepin-3-yl}-2-oxo-ethyl) ester 2-tert-butyl ester (142 mg). m/z: 731.3 (M−H)−, 755.2 (M+Na)+.

reactant | 2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester | 0.42 mmol, 100 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C(=O)O)C2 | C12H19NO4
reactant | triethylamine | 0.36 mmol, 50 μl | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine-1,2-dicarboxylic acid 2-{2-[9-(2-bromo-acetyl)-5,7-dihydro-dibenzo[c,e]oxepin-3-yl]-2-oxo-ethyl}ester 1-tert-butyl ester | 0.24 mmol, 136 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCC(=O)C=1C=CC2=C(COCC3=C2C=CC(=C3)C(CBr)=O)C1 | C28H30BrNO7
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 3-(2-{9-[2-(1-tert-butoxycarbonyl-pyrrolidine-2-carbonyloxy)-acetyl]-5,7-dihydro-dibenzo[c,e]oxepin-3-yl}-2-oxo-ethyl) ester 2-tert-butyl ester | 142 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C(=O)OCC(=O)C=1C=CC3=C(COCC4=C3C=CC(=C4)C(COC(=O)C4N(CCC4)C(=O)OC(C)(C)C)=O)C1)C2 | C40H48N2O11
